US05201932
Methyl 5-piperidinocarbonyl-3-methyl-isoxazole-4-carboxylate
At -5° C., 3.0 g (35.1 mmol) of piperidine, 10.1 g (100.0 mmol) of methylmorpholine, 1.1 g (9 mmol) of dimethylaminopyridine and 22.9 g of a 50% strength solution of propanephosphonic anhydride in dichloromethane (36.0 mmol) were added one after the other to 5.0 g (27.0 mmol) of 4-methoxycarbonyl-3-methyl-isoxazole-5-carboxylic acid in 100 ml of dichloromethane, and the mixture was stirred for 12 hours at room temperature. The solvent was stripped off under reduced pressure, and the residue was taken up in 200 ml of ethyl acetate and extracted twice with saturated sodium bicarbonate solution and once with 5% strength citric acid solution and once with saturated sodium chloride solution. The organic phase was dried over magnesium sulfate and the solvent was stripped off under reduced pressure. Yield: 90%, 1H-NMR (250 MHz; CDCl3): δ=1.65 ppm (m; 6H), 2.49 ppm (s; 3H), 3.18 ppm (m; 2H), 3.73 ppm (m; 2H), 3.87 ppm (s; 3H).

reactant | piperidine | 35.1 mmol, 3.0 g | N1CCCCC1 | C5H11N
reactant | methylmorpholine | 100.0 mmol, 10.1 g | CN1CCOCC1 | C5H11NO
reactant | dimethylaminopyridine | 9 mmol, 1.1 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-methoxycarbonyl-3-methyl-isoxazole-5-carboxylic acid | 27.0 mmol, 5.0 g | COC(=O)C=1C(=NOC1C(=O)O)C | C7H7NO5
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 36.0 mmol | ClCCl | CH2Cl2
product | Methyl 5-piperidinocarbonyl-3-methyl-isoxazole-4-carboxylate | Yield: 90% | N1(CCCCC1)C(=O)C1=C(C(=NO1)C)C(=O)OC | C12H16N2O4
